US06384080B1
A mixture of methyl 3-ethoxy-4-methoxybenzoate (4.42 g), methanol (160 mL) and IN-sodium hydroxide solution (40 mL) was heated for 2 hours under reflux. The reaction mixture was acidified with 1N-hydrochloric acid to pH 4, and the organic solvent was removed by evaporation. The aqueous layer was diluted with water and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated in vacuo. The residue was triturated with hexane to give 3-ethoxy-4-methoxybenzoic acid as colorless powders (3.76 g). NMR (CDCl3, δ): 1.50 (3H, t, J=7 Hz), 3.95 (3H, s), 4.17 (2H, q, J=7 Hz), 6.92 (1H, d, J=8 Hz), 7.60 (1H, d, J=4 Hz), 7.76 (1H, dd, J=4, 8 Hz); Mass m/z: 195(M+).

reactant | methyl 3-ethoxy-4-methoxybenzoate | 4.42 g | C(C)OC=1C=C(C(=O)OC)C=CC1OC | C11H14O4
reactant | sodium hydroxide | 40 mL | [OH-].[Na+]
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 160 mL | CO | CH4O
product | 3-ethoxy-4-methoxybenzoic acid | 3.76 g | C(C)OC=1C=C(C(=O)O)C=CC1OC | C10H12O4
